US04012377
β-(Thien-2-yl) acrylamidoxime (2.20 g.) was refluxed in ethyl orthoformate (30 ml.) containing one drop of boron trifluoride etherate. After 1 hr. the ethyl orthoformate was removed under reduced pressure and the residue was dissolved in chloroform (20 ml.) and washed consecutively with 2N hydrochloric acid (20 ml.), saturated sodium hydrogen carbonate solution (20 ml.), and water (20 ml.). Evaporation of the chloroform solution to dryness and chromatography in benzene on silica gel gave trans-1-(thien-2-yl)-2-(1,2,4-oxadiazol-3-yl)-ethylene 1.57 g. (67%), m.p. 78° , λmax. (EtOH) 306 nm, (ε 21700) (Found: C, 52.9; H, 3.7; N, 15.3; S, 17.2. C8H6N2OS requires C, 53.9; H, 3.4; N, 15.7; S, 18.0%).

reactant | β-(Thien-2-yl) acrylamidoxime | 2.20 g | S1C(=CC=C1)C=CC(N)=NO | C7H8N2OS
reactant | ethyl orthoformate | 30 ml | C(OCC)([O-])[O-]
catalyst | boron trifluoride etherate | one drop | B(F)(F)F.CCOCC
product | trans-1-(thien-2-yl)-2-(1,2,4-oxadiazol-3-yl)-ethylene | 1.57 g | S1C(=CC=C1)\C=C\C1=NOC=N1 | C8H6N2OS
